US07696240B2
Using general procedure A (Exp. 1.2.), 7-isopropoxy-4-methyl-1,2-dihydro-naphthalene was reacted with 3,4,5,6-tetrachloro-1,2-benzoquinone to give 6-isopropoxy-1-methyl-naphthalene as a pale yellow oil. MS: 201.3 ([M+H]+).

reactant | 7-isopropoxy-4-methyl-1,2-dihydro-naphthalene | C(C)(C)OC1=CC=C2C(=CCCC2=C1)C | C14H18O
reactant | 3,4,5,6-tetrachloro-1,2-benzoquinone | ClC=1C(C(C(=C(C1Cl)Cl)Cl)=O)=O | C6Cl4O2
product | 6-isopropoxy-1-methyl-naphthalene | C(C)(C)OC=1C=C2C=CC=C(C2=CC1)C | C14H16O
